US07345067B2
To an ice-cooled and stirred solution of crude (4-ethylamino-phenoxy)-acetic acid ethyl ester (0.243 g, containing 0.214 g, 0.96 mmol), 5-chloromethyl-4-methyl-2-(4-trifluoromethyl-phenyl)-thiazole (0.308 g, 1.05 mmol, WO02/28433) and NaI (0.144 g, 0.96 mmol) in DMF (3 ml) was added NaH (55% in oil, 0.063 g, 1.44 mmol). The reaction was stirred at RT for 4 h, water was added and diluted with Et2O and extracted with aqueous saturated NaHCO3/Et2O (3×). The organic phases were washed with aqueous saturated NaHCO3, dried (Na2SO4) and evaporated to give 0.32 g (70%) of crude (4-{ethyl-[4-methyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-ylmethyl]-amino}-phenoxy)-acetic acid ethyl ester as an orange oil, MS: 479 (MH+).

reactant | (4-ethylamino-phenoxy)-acetic acid ethyl ester | 0.96 mmol, 0.243 g | C(C)OC(COC1=CC=C(C=C1)NCC)=O | C12H17NO3
reactant | 5-chloromethyl-4-methyl-2-(4-trifluoromethyl-phenyl)-thiazole | 1.05 mmol, 0.308 g | ClCC1=C(N=C(S1)C1=CC=C(C=C1)C(F)(F)F)C | C12H9ClF3NS
reactant | NaI | 0.96 mmol, 0.144 g | [Na+].[I-]
reactant | NaH | 1.44 mmol, 0.063 g | [H-].[Na+]
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
solvent | Et2O | CCOCC | C4H10O
solvent | water | O | H2O
product | (4-{ethyl-[4-methyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-ylmethyl]-amino}-phenoxy)-acetic acid ethyl ester | 0.32 g, 70% | C(C)OC(COC1=CC=C(C=C1)N(CC1=C(N=C(S1)C1=CC=C(C=C1)C(F)(F)F)C)CC)=O | C24H25F3N2O3S
